US07659268B2
To a solution of 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxypyrimidin-5-yl)-5-methylpyridin-2-yl)cyclopropanecarboxamide (88 mg, 0.20 mmol) in CH3CN (2 mL) was added TMSI (80 mg, 0.40 mmol). The mixture was heated at 75° C. for 4 hours. The mixture was partitioned between ethyl acetate and H2O, and the aqueous layer was extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by preparative LC/MS to yield 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(6-(2-hydroxypyrimidin-5-yl)-5-methylpyridin-2-yl)cyclopropanecarboxamide. MS (ESI) m/e (M+H+) 427.3.

reactant | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxypyrimidin-5-yl)-5-methylpyridin-2-yl)cyclopropanecarboxamide | 0.20 mmol, 88 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC(=C(C=C2)C)C=2C=NC(=NC2)OC)F | C22H18F2N4O4
reactant | TMSI | 0.40 mmol, 80 mg | [Si](C)(C)(C)I | C3H9ISi
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(6-(2-hydroxypyrimidin-5-yl)-5-methylpyridin-2-yl)cyclopropanecarboxamide | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC(=C(C=C2)C)C=2C=NC(=NC2)O)F | C21H16F2N4O4
